US06369075B1
[R]-7-[2-(5-Trifluoromethyl-pyridin-2-yl)-benzoylamino]-quinoline-3-carboxylic acid (1-pyridin-2-yl-propyl)-amide
7-[2-(5-Trifluoromethyl-pyridin-2-yl)-benzoylamino]-quinoline-3-carboxylic acid (25 mg, 0.06 mmol), [R]-1-pyridin-2-yl-propylamine (23 mg, 0.17 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (33 mg, 0.17 mmol), 1-hydroxybenzotriazole (23 mg, 0.17 mmol), and triethylamine (69 mg, 0.69 mmol) were combined in 5 ml of dichloromethane. After stirring 5 h at room temperature, the mixture was diluted with dichloromethane and washed with 10 ml of 1 N HCl, the organic layer was dried (magnesium sulfate), filtered and concentrated under vacuum. Purification of the residue by silica gel chromatography eluting with 5% methanol in ethyl acetate afforded the title compound.

reactant | 7-[2-(5-Trifluoromethyl-pyridin-2-yl)-benzoylamino]-quinoline-3-carboxylic acid | 0.06 mmol, 25 mg | FC(C=1C=CC(=NC1)C1=C(C(=O)NC2=CC=C3C=C(C=NC3=C2)C(=O)O)C=CC=C1)(F)F | C23H14F3N3O3
reactant | [R]-1-pyridin-2-yl-propylamine | 0.17 mmol, 23 mg | N1=C(C=CC=C1)[C@@H](CC)N | C8H12N2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.17 mmol, 33 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.17 mmol, 23 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.69 mmol, 69 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | [R]-7-[2-(5-Trifluoromethyl-pyridin-2-yl)-benzoylamino]-quinoline-3-carboxylic acid (1-pyridin-2-yl-propyl)-amide | N1=C(C=CC=C1)[C@@H](CC)NC(=O)C=1C=NC2=CC(=CC=C2C1)NC(C1=C(C=CC=C1)C1=NC=C(C=C1)C(F)(F)F)=O | C31H24F3N5O2
